US08071807B2
Step 1: 1-Benzyloxy-3-bromo-5-chloro-benzene
To 1-bromo-3-chloro-5-fluorobenzene (25 g, 112 mmol) and benzyl alcohol (25 mL, 239 mmol) in NMP (200 mL) at room temperature was added sodium hydride (60% in mineral oil; 10.5 g, 263 mmol), and the reaction was heated to 120° C. for 10 hours. The mixture was acidified with 10% aqueous HCl and extracted with EtOAc to give the title compound.

reactant | 1-bromo-3-chloro-5-fluorobenzene | 112 mmol, 25 g | BrC1=CC(=CC(=C1)F)Cl | C6H3BrClF
reactant | benzyl alcohol | 239 mmol, 25 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 263 mmol, 10.5 g | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | NMP | 200 mL | CN1CCCC1=O | C5H9NO
product | 1-Benzyloxy-3-bromo-5-chloro-benzene | C(C1=CC=CC=C1)OC1=CC(=CC(=C1)Cl)Br | C13H10BrClO
